US05382578
Preparation of 8-chloro-N-[4-(ethylsulfonyl)-2-oxobutyl]dibenz[b,f][1,4]oxazepin-10(11H)-carboxamide
A solution of 8-chloro-N-(2-oxo-3-butenyl)dibenz[b,f][1,4]oxazepin-10(11H)-carboxamide (1.00 gram), ethanethiol (0.23 mL), piperidine (0.092 mL), and N-benzyltrimethylammonium hydroxide (0,092 mL) in methylene chloride (16 mL) and methanol (4 mL) was stirred at room temperature for 5 hours. The reaction was diluted with methylene chloride (100 mL), washed with 100 mL each of 1N HCl (two times), water, saturated aqueous sodium bicarbonate, and brine, dried over MgSO4, and evaporated in vacuo. The crude product was purified by flash chromatography through silica gel 60 (350 mL) using 92:8 methylene chloride: ethyl acetate to yield a colorless oil. The yield of the title compound was 0.38 gram. (32%).

reactant | 8-chloro-N-(2-oxo-3-butenyl)dibenz[b,f][1,4]oxazepin-10(11H)-carboxamide | 1.00 gram | ClC1=CC2=C(OC3=C(CN2C(=O)NCC(C=C)=O)C=CC=C3)C=C1 | C18H15ClN2O3
reactant | ethanethiol | 0.23 mL | C(C)S | C2H6S
reactant | piperidine | 0.092 mL | N1CCCCC1 | C5H11N
reactant | N-benzyltrimethylammonium hydroxide | 0,092 mL | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | methanol | 4 mL | CO | CH4O
solvent | methylene chloride | 16 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 8-chloro-N-[4-(ethylsulfonyl)-2-oxobutyl]dibenz[b,f][1,4]oxazepin-10(11H)-carboxamide | ClC1=CC2=C(OC3=C(CN2C(=O)NCC(CCS(=O)(=O)CC)=O)C=CC=C3)C=C1 | C20H21ClN2O5S
